US04652405
A mixture of 0.605 g. (0.0010 mole) of [1α,3β,7ξ,24R]-7-bromo-24-fluorocholest-5-en-1,3,25-triol 1,3-diacetate, 0.6 ml. of s-collidine and 18 ml. of xylene was heated at reflux (140° C.) for 0.5 hr and cooled. The mixture was diluted with 30 ml. of toluene. This solution was washed with 10% aqueous sulfuric acid, and saturated aqueous sodium bicarbonate solution. The organic phase was dried over anhydrous magnesium sulfate, filtered, and evaporated to dryness. The residue was purified by column chromatography on 0.06-0.20 mm silica gel to yield [1α,3β,24R]-24-fluorocholesta-5,7-dien-1,3,25-triol 1,3-diacetate, [α]D23 -21° (c 0.5, CHCl3).

reactant | [1α,3β,7ξ,24R]-7-bromo-24-fluorocholest-5-en-1,3,25-triol 1,3-diacetate | 0.0010 mole | C(C)(=O)O[C@H]1C[C@@H](CC2=CC([C@H]3[C@@H]4CC[C@H]([C@@H](CC[C@H](C(C)(C)O)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)Br)OC(C)=O | C31H48BrFO5
reactant | s-collidine | CC1=CC(=NC(=C1)C)C | C8H11N
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [1α,3β,24R]-24-fluorocholesta-5,7-dien-1,3,25-triol 1,3-diacetate | C(C)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CC[C@H](C(C)(C)O)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C31H47FO5
